US07700638B2
7-(3-Acetamidophenyl)-5-cyano-1-phenylbenzimidazole
5-Cyano-7-iodo-1-phenylbenzimidazole (173 mg, 0.5 mmol), toluene (3.0 ml), tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol), 3-acetamidophenylboronic acid (90 mg, 0.5 mmol), ethanol (3.0 ml) and potassium carbonate (138 mg, 1.0 mmol) were combined and the mixture was stirred at reflux overnight. The solvent was removed under reduced pressure and the crude product was purified on a 2 g silica Isolute® SPE column, eluting with dichloromethane/methanol (98:2). The eluent from this column was evaporated under reduced pressure and the crude product was purified further by prep LCMS, then recrystallised from dichloromethane/diethyl ether to give the product as a white solid (64 mg, 36%) m/z, 353.0 (M+H)+.

reactant | 5-Cyano-7-iodo-1-phenylbenzimidazole | 0.5 mmol, 173 mg | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-acetamidophenylboronic acid | 0.5 mmol, 90 mg | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 7-(3-Acetamidophenyl)-5-cyano-1-phenylbenzimidazole | 64 mg, 36% | C(C)(=O)NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C#N | C22H16N4O
